US08536394B2
[Production of Cumene]
The pressure was increased to 4.5 MPa with hydrogen. Under a stream of hydrogen at 8.3 ml/min, a benzene/acetone (5/1 molar ratio) mixture liquid was passed at 175° C. at a rate of 0.50 g/h (WHSV=0.07/h, hydrogen/acetone molar ratio=20).

reactant | hydrogen | [H][H] | H2
reactant | hydrogen acetone | [H][H].CC(=O)C
reactant | benzene acetone | 1 molar | C1=CC=CC=C1.CC(=O)C
product | Cumene | C1(=CC=CC=C1)C(C)C | C9H12
